US05206235
Step C: 4'-Methyl-2-(acetoxyacetyl)-1,1'-biphenyl
A solution of 1.44 g (4.98 mmol) of 4'-methyl-2-(bromoacetyl)-1,1'-biphenyl in 3.0 mL of polyethyleneglycol-400 was added to a solution of 500 mg of potassium acetate in 3.0 mL of polyethyleneglycol-400. The suspension was heated at 100° C. for 30 minutes, then cooled and diluted with 100 mL of water. The resultant mixture was extracted with ether; the combined ether extracts were diluted with an equal volume of hexane and washed with water. The organic layer was separated, dried over magnesium sulfate, filtered, and the solvent was removed under vacuum to yield an oil which was purified by silica chromatography, eluting with hexane/ethyl acetate (8:1) to give 444 mg (1.66 mmol,33%) of product as an oil. 1H NMR (200 MHz,CDCl3): 2.06 (s,3H), 2.39 (s,3H), 4.46 (s,2H), 7.23 (s,4H), 7.3-7.6 (m,4H).

reactant | 4'-methyl-2-(bromoacetyl)-1,1'-biphenyl | 4.98 mmol, 1.44 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(CBr)=O | C15H13BrO
reactant | potassium acetate | 500 mg | C(C)(=O)[O-].[K+]
solvent | water | 100 mL | O | H2O
product | 4'-Methyl-2-(acetoxyacetyl)-1,1'-biphenyl | 1.66 mmol, 444 mg, 33% | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(COC(C)=O)=O | C17H16O3
